US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(4-prop-2-enyl-1,4-diazepan-1-yl)pyrazine-2-carboxamide
1-Prop-2-enyl-1,4-diazepane (224 mg, 1.60 mmol) was added to 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide (310 mg, 0.80 mmol) in DMSO (4.00 ml) at 25° C. The resulting solution was stirred at room temperature for 3 h. The reaction mixture was diluted with MeOH (5 ml) and the crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford crude product as an orange oil. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (271 mg, 69%) as a yellow solid.

reactant | 1-Prop-2-enyl-1,4-diazepane | 1.60 mmol, 224 mg | C(C=C)N1CCNCCC1 | C8H16N2
reactant | 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 0.80 mmol, 310 mg | ClC=1N=CC(=NC1)C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC | C18H18ClN5O3
solvent | DMSO | 4.00 ml | CS(=O)C | C2H6OS
solvent | MeOH | 5 ml | CO | CH4O
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(4-prop-2-enyl-1,4-diazepan-1-yl)pyrazine-2-carboxamide | 271 mg, 69% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C1=NC=C(N=C1)N1CCN(CCC1)CC=C | C26H33N7O3
